US05929117
3-(3-Ethoxy-4-methoxyphenyl)-3-phenylpropionitrile
To a solution of 3-(3-ethoxy-4-methoxyphenyl)-3-phenylacrylonitrile (0.9 g, 3.2 mmol) in a mixture of ethanol and ethyl acetate (20 mL/ 30 mL) was added 0.5 g of 10% palladium on carbon catalyst in portions. The mixture was hydrogenated in a Parr-Shaker apparatus at 55-60 psi of hydrogen for 12 days. The reaction mixture was filtered through celite and the filtrate was concentrated in vacuo to afford the crude product. The crude product was purified by flash column chromatography (silica gel, 4% hexane/methylene chloride) to afford 0.15 g (15%) of the product as an oil: 1H NMR (CDCl3) δ 7.40-7.16 (m, 5H); 6.88-6.78 (m, 3H), 4.32 (t,J=7.5 Hz, 1H), 4.03 (q,J=7 Hz, 2H), 3.85 (s, 3H), 3.00 (d,J=7.5 Hz, 2H), 1.42 (t, J=7 Hz, 3H); 13C NMR (CDCl3) δ 148.7, 148.5, 141.5, 133.7, 128.8, 127.4, 127.3, 119.5, 118.5, 112.7, 111.6, 64.4, 55.9, 46.7, 24.5, 14.7; Anal. Calcd for C18H17NO2. Theoretical: C, 76.84; H, 6.81; N, 4.98. Found: C, 76.53; H, 6.92; N, 4.95.

reactant | 3-(3-ethoxy-4-methoxyphenyl)-3-phenylacrylonitrile | 3.2 mmol, 0.9 g | C(C)OC=1C=C(C=CC1OC)C(=CC#N)C1=CC=CC=C1 | C18H17NO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 3-(3-Ethoxy-4-methoxyphenyl)-3-phenylpropionitrile | 0.15 g, 15% | C(C)OC=1C=C(C=CC1OC)C(CC#N)C1=CC=CC=C1 | C18H19NO2
